US05021449
(±) 4,5-Dicarbomethoxy-N-[1-ethyl-2-pyrrolidinylmethyl]-3-methoxythiophene-2-carboxamide
The above compound was prepared from trimethyl 3-methoxy-2,4,5-thiophene tricarboxylate and (±) 2-(aminomethyl)-1-ethyl-pyrrolidine as in Example 5.

reactant | trimethyl 3-methoxy-2,4,5-thiophene tricarboxylate | COC1=C(SC(=C1C(=O)OC)C(=O)OC)C(=O)OC | C11H12O7S
reactant | (±) 2-(aminomethyl)-1-ethyl-pyrrolidine | NCC1N(CCC1)CC | C7H16N2
product | (±) 4,5-Dicarbomethoxy-N-[1-ethyl-2-pyrrolidinylmethyl]-3-methoxythiophene-2-carboxamide | C(=O)(OC)C=1C(=C(SC1C(=O)OC)C(=O)NCC1N(CCC1)CC)OC | C17H24N2O6S
